US04414208
At -20° C., 15.3 ml of bromine is dripped into 33.6 g of 4-fluorophenol in 300 ml of dichloromethane. After the solution has stood for 24 hours it is colorless. Distillation gives 46 g of 2-bromo-4-fluorophenol of boiling point 70° C./13.3 mbars.

reactant | bromine | 15.3 ml | BrBr | Br2
reactant | 4-fluorophenol | 33.6 g | FC1=CC=C(C=C1)O | C6H5FO
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | 2-bromo-4-fluorophenol | 46 g | BrC1=C(C=CC(=C1)F)O | C6H4BrFO
